US04845093
Synthesis of N-(2,4-dinitrobenzoyl)-N'-[4-(6-bromo-3-pyridazinyloxy) -3-chlorophenyl]urea (Compound No. 11)
1.10 g of 4-(6-bromo-3-pyridazinyloxy)-3-chloroaniline obtained in the same manner as in the above Synthetic Example 1 (1), was dissolved in 7 ml of dioxane. To this solution, 8 ml of a dioxane solution containing 0.87 g of 2,4-dinitrobenzoyl isocyanate was dropwise added, and the mixture was reacted at room temperature for 4 hours. After the completion of the reaction, the reaction product was poured into warm water, and the precipitates were separated by filtration. The precipitates were stirred in ethyl acetate, and again filtered to obtain 0.80 g of the desired product having a melting point of from 217° to 219° C.

reactant | 4-(6-bromo-3-pyridazinyloxy)-3-chloroaniline | 1.10 g | BrC1=CC=C(N=N1)OC1=C(C=C(N)C=C1)Cl | C10H7BrClN3O
reactant | 2,4-dinitrobenzoyl isocyanate | 0.87 g | [N+](=O)([O-])C1=C(C(=O)N=C=O)C=CC(=C1)[N+](=O)[O-] | C8H3N3O6
reactant | water | O | H2O
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | N-(2,4-dinitrobenzoyl)-N'-[4-(6-bromo-3-pyridazinyloxy) -3-chlorophenyl]urea | 0.80 g | [N+](=O)([O-])C1=C(C(=O)NC(=O)NC2=CC(=C(C=C2)OC=2N=NC(=CC2)Br)Cl)C=CC(=C1)[N+](=O)[O-] | C18H10BrClN6O7
